US05935977
Synthesis of N-hydroxyethyl-2-pyridone
In 100 ml of dioxane, was dissolved N-ethoxycarbonylmethyl-2-pyridone (3.62 g, 20 mmol). To the solution was added 90% LiBH4 (0.96 g, 40 mmol) and the mixture was refluxed for 20 minutes. Subsequently, ethyl acetate (20 ml) was added to the mixture and the refluxing was carried out for five minutes. The reaction mixture was evaporated to dryness and water was added to the residue. The aqueous solution was extracted with chloroform (three times), dried, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography, to thereby obtain the title compound (1.15 g, yield 41%).

reactant | N-ethoxycarbonylmethyl-2-pyridone | 20 mmol, 3.62 g | C(C)OC(=O)CN1C(C=CC=C1)=O | C9H11NO3
reactant | LiBH4 | 40 mmol, 0.96 g | [Li+].[BH4-]
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | N-hydroxyethyl-2-pyridone | 1.15 g, yield 41% | OCCN1C(C=CC=C1)=O | C7H9NO2
